US09126931B2
4-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yl)-piperidine-1-carboxylic acid tert-butyl ester
4-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester (Compound B2-22-1, 16.2 g, 34.6 mmol) was dissolved in THF (800 ml) and methanol (230 ml), added with 10 wt % Pd/C (3.2 g), and stirred under hydrogen atmosphere for 19 hr. The solid was filtered through Celite, eluted with a mixture solvent (400 ml; THF/methanol=4/1), and concentrated under reduced pressure. The residues were dissolved in ethyl acetate (400 ml), and then washed with 1% aqueous solution of N-acetylcysteine, saturated aqueous solution of NaHCO3 and saturated brine. The organic layer was dried over sodium sulfate. The drying agent was removed by filtration and the residues were concentrated under reduced pressure to obtain the title compound as a crude product (white powder, 14.0 g, 86%).

reactant | 4-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 34.6 mmol, 16.2 g | C(C)(C)(C)OC(=O)N1CCC(=CC1)C=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C29H29N3O3
solvent | THF | 800 ml | C1CCOC1 | C4H8O
solvent | methanol | 230 ml | CO | CH4O
catalyst | Pd/C | 3.2 g | [Pd] | Pd
product | 4-(3-Cyano-6,6-dimethyl-11-oxo-6,11-dihydro-5H-benzo[b]carbazol-8-yl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C=1C=CC2=C(C(C=3NC4=CC(=CC=C4C3C2=O)C#N)(C)C)C1 | C29H31N3O3
